US04612309
Step 1. 3-Isopropylcarbonyl-1,2,dimethoxybenzene
A solution of n-butyl lithium in hexane (278 ml) is added dropwise to a stirred solution of 1,2-dimethoxybenzene (81 ml) in diethyl ether (1.2 l) cooled to -10° C. under nitrogen. The reaction mixture is allowed to warm to RT and stirred under nitrogen for 61/2 hours. The reaction mixture is cooled to -78° C. and isobutyric anhydride (154 ml) added. The reaction mixture is allowed to warm to RT, stirred under nitrogen overnight, washed with sat'd aq. sodium bicarbonate, sat'd NaCl and dried. The solution is filtered and evaporated in vacuo affording an oil which is distilled in vacuo yielding the desired product, B.P.=80°-150° C. (1 mm).

reactant | n-butyl lithium | C(CCC)[Li]
reactant | 1,2-dimethoxybenzene | 81 ml | COC1=C(C=CC=C1)OC | C8H10O2
reactant | isobutyric anhydride | 154 ml | C(C(C)C)(=O)OC(C(C)C)=O | C8H14O3
solvent | hexane | 278 ml | CCCCCC | C6H14
solvent | diethyl ether | 1.2 l | C(C)OCC | C4H10O
product | 3-Isopropylcarbonyl-1,2,dimethoxybenzene | C(C)(C)C(=O)C=1C(=C(C=CC1)OC)OC | C12H16O3
